US07576099B2
(E)-2-Fluoro-4-(3,3,3-trifluoroprop-1-enyl)benzoic acid
A mixture of methyl-2-fluoro-4-bromobenzoate (5.0 g, 0.021 mol), tri-o-tolylphosphine (1.31 g, 0.00429 mol), tetra-N-butylammonium bromide (2.08 g, 0.00644 mol), potassium acetate (4.2 g, 0.043 mol), 3,3,3-trifluoroprop-1-ene (20 g, 0.2 mol), palladium acetate (0.24 g, 0.0011 mol) was sealed in a Parr instrument and stirred at 180° C. for 96 h. After cooling, the reaction mixture was filtered through Celite® and the filtrate was partitioned bewteen EtOAc and 1 N aq. HCl. The organic layer was separated and washed with brine, dried (Na2SO4) and concentrated. The residue was chromatographed with hexane-EtOAc(5% AcOH) (0 to 60%) to give the product as a white solid. LC-MS: t=2.98 min, m/z=233.2 (M−1).

reactant | methyl-2-fluoro-4-bromobenzoate | 0.021 mol, 5.0 g | COC(C1=C(C=C(C=C1)Br)F)=O | C8H6BrFO2
reactant | tri-o-tolylphosphine | 0.00429 mol, 1.31 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | potassium acetate | 0.043 mol, 4.2 g | C(C)(=O)[O-].[K+]
reactant | 3,3,3-trifluoroprop-1-ene | 0.2 mol, 20 g | FC(C=C)(F)F | C3H3F3
catalyst | tetra-N-butylammonium bromide | 0.00644 mol, 2.08 g | CCCC[N+](CCCC)(CCCC)CCCC.[Br-]
catalyst | palladium acetate | 0.0011 mol, 0.24 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (E)-2-Fluoro-4-(3,3,3-trifluoroprop-1-enyl)benzoic acid | FC1=C(C(=O)O)C=CC(=C1)\C=C\C(F)(F)F | C10H6F4O2
